US08309721B2
330 mg of (1H-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate (BOP), 100 mg of hydroxybenzotriazole (HOBT), 54 mg of ammonium chloride and 0.41 ml of diisopropylethylamine are successively added to a solution of 280 mg of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]benzoic acid in 30 ml of N,N-dimethylformamide. The reaction mixture is stirred at ambient temperature for 12 hours and then diluted with distilled water and extracted with ethyl acetate. The organic phase is subsequently washed with distilled water and a saturated solution of sodium chloride, dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of dichloromethane, acetonitrile and methanol (85/7.5/7.5 by volume), so as to give 60 mg of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]benzamide in the form of a white solid, the characteristics of which are the following:

reactant | (1H-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate | 330 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | hydroxybenzotriazole | 100 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | ammonium chloride | 54 mg | [Cl-].[NH4+]
reactant | diisopropylethylamine | 0.41 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]benzoic acid | 280 mg | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)O)C=C1)NC1CC(N(C(C1)(C)C)C)(C)C | C35H35N5O2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]benzamide | 60 mg | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)N)C=C1)NC1CC(N(C(C1)(C)C)C)(C)C | C35H36N6O
